US05026865
2,5-Bis(2-hydroxy ethylthio)-1,3,4-thiadiazole
2,5-Dimercapto-1,3,4-thiadiazole(80.6 grams, 0.54 moles) and ethanol (150 ml) were charged into reaction flask and stirred. The flask was flushed with nitrogen and then ethylene oxide (54 grams, 1.3 moles) was added slowly via a gas inlet directly above the surface of the solution. The reaction mixture was refluxed with stirring for 15 minutes. The solvent was stripped off by using a rotary evaporator at approximately 20 mm Hg and 100° C. The product was a white solid and characterized by infrared absorption bands at 3350, 2900, 1675, 1385, 1285, 1050, 750, and 710 cm-1.

reactant | 2,5-Dimercapto-1,3,4-thiadiazole | 0.54 moles, 80.6 grams | SC=1SC(=NN1)S | C2H2N2S3
reactant | ethylene oxide | 1.3 moles, 54 grams | C1CO1 | C2H4O
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | 2,5-Bis(2-hydroxy ethylthio)-1,3,4-thiadiazole | OCCSC=1SC(=NN1)SCCO | C6H10N2O2S3
